US05480580
In absolute methanol were dissolved 5.2 g of β-hydroxyisovaleric acid and 15.2 g of monoethyl acetylmalate, and 0.14 g of sodium hydroxide was added to the solution. The mixture was subjected to Kolbe electrolysis by applying a voltage of ±20 V for 5 hr through the use of a platinum electrode. After the reaction, 8 g of sodium hydroxide was added to the reaction mixture, and 200 ml of a mixed solution comprising water and methanol (1:1) was added thereto. The mixture was allowed to stand overnight for hydrolysis. A major portion of methanol contained in the solution was removed by distillation, and a neutral component contained in the solution was extracted with diethyl ether, and hydrochloric acid was added to the remaining aqueous alkaline solution to adjust the pH to 1. Thereafter, sodium chloride was added thereto until a saturated solution was prepared, and the reaction product was extracted with chloroform. The resultant chloroform solution was washed with water and dried over magnesium sulfate, and the chloroform was removed by distillation under a reduced pressure. Then 8.3 g of the crude product thus obtained was dissolved in 150 ml of benzene, 0.1 g of p-toluenesulfonic acid was added thereto, and the mixture was refluxed for 5 hr. The refluxed solution was cooled to room temperature and extracted with an ether, and the extract was washed with a saturated aqueous solution of sodium hydrogencarbonate and then with water, and the solvent was removed from the extract by distillation under a reduced pressure to obtain a crude product. The crude product was purified by a silica gel column chromatography to obtain 5.2 g of (S)-2-hydroxy-5,5-dimethyl-δ-valerolactone.

reactant | β-hydroxyisovaleric acid | 5.2 g | OC(CC(=O)O)(C)C | C5H10O3
reactant | monoethyl acetylmalate | 15.2 g | C(C)(=O)C(C(=O)OCC)(O)CC(=O)[O-]
reactant | sodium hydroxide | 8 g | [OH-].[Na+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
catalyst | platinum | [Pt] | Pt
catalyst | sodium hydroxide | 0.14 g | [OH-].[Na+]
catalyst | p-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (S)-2-hydroxy-5,5-dimethyl-δ-valerolactone | 5.2 g | O[C@@H]1C(=O)OC(CC1)(C)C | C7H12O3
